US07282588B2
N,N-diethyl-N′-[4-(1-ethyl-4-{2-[4-(1-pyrrolidinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)phenyl]urea
To a cloudy mixture of 4-(1-ethyl-4-{2-[4-(1-pyrrolidinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)aniline (350 mg, 0.76 mmol) in dry THF (8 mL) was added 4-nitrophenyl chloroformate (168 mg, 0.83 mmol). The resultant slurry was stirred at room temperature for 45 min and diethylamine (0.32 mL, 3.03 mmol) was added. After 1 h, the reaction was concentrated under reduced pressure and diluted with 1N NaOH and EtOAc. The aqueous layer was extracted with three portions of EtOAc followed by 5% MeOH in EtOAc and the combined extracts were dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified by Gilson reverse phase HPLC (MeCN/H2O with 0.1% TFA) to provide 159 mg (32%) of the title product as a bis-TFA salt (yellow solid). ESMS [M+H]+: 562.4

reactant | 4-(1-ethyl-4-{2-[4-(1-pyrrolidinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)aniline | 0.76 mmol, 350 mg | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC(=C2)C2=CC=C(C=C2)CN2CCCC2)C2=CC=C(N)C=C2 | C29H30N6
reactant | 4-nitrophenyl chloroformate | 0.83 mmol, 168 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diethylamine | 3.03 mmol, 0.32 mL | C(C)NCC | C4H11N
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | N,N-diethyl-N′-[4-(1-ethyl-4-{2-[4-(1-pyrrolidinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)phenyl]urea | 159 mg, 32% | C(C)N(C(=O)NC1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)NC(=C2)C2=CC=C(C=C2)CN2CCCC2)CC)CC | C34H39N7O
